US07078428B2
A solution of 0.69 cm3 (5.0 mmol) of triethylamine and 1.64 g (5.0 mmol) of O-[(cyano(ethoxycarbonyl)methylene)amino]-1,1,3,3-tetramethyluronium tetrafluoroborate (“TOTU”) in 6 cm3 of dimethylformamide is added at 0° C. to a solution of 1.17 g (5.0 mmol) of 2-(2-ethoxycarbonylpropen-1-yl)benzoic acid in 10 cm3 of dimethylformamide. After stirring for 30 minutes at 0° C. and then for 30 minutes at a temperature in the region of 20° C., this solution is introduced dropwise into a second solution consisting of 296 mg (5.0 mmol) of n-propylamine and 0.69 cm3 (5.0 mmol) of triethylamine in 10 cm3 of dimethylformamide, and the mixture is stirred for a further 6 hours at a temperature in the region of 20° C. After leaving the solution to stand overnight, the solvent is removed under vacuum and the residue is dissolved in ethyl acetate. After washing twice with sodium bicarbonate solution and then once with sodium chloride solution, the organic phase is dried over sodium sulfate and then concentrated. 1.10 g of ethyl 2-methyl-3-(2-propylcarbamoylphenyl)acrylate are thus obtained in the form of a yellowish oil, which can be reacted in the following step without further purification.

reactant | triethylamine | 5.0 mmol, 0.69 cm3 | C(C)N(CC)CC | C6H15N
reactant | O-[(cyano(ethoxycarbonyl)methylene)amino]-1,1,3,3-tetramethyluronium tetrafluoroborate | 5.0 mmol, 1.64 g | F[B-](F)(F)F.C(#N)C(C(=O)OCC)=NOC(=[N+](C)C)N(C)C
reactant | 2-(2-ethoxycarbonylpropen-1-yl)benzoic acid | 5.0 mmol, 1.17 g | C(C)OC(=O)C(=CC1=C(C(=O)O)C=CC=C1)C | C13H14O4
reactant | n-propylamine | 5.0 mmol, 296 mg | C(CC)N | C3H9N
reactant | triethylamine | 5.0 mmol, 0.69 cm3 | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 6 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
product | ethyl 2-methyl-3-(2-propylcarbamoylphenyl)acrylate | 1.10 g | CC(C(=O)OCC)=CC1=C(C=CC=C1)C(NCCC)=O | C16H21NO3
